US07531655B2
To a solution of 5-bromo-2-dimethylaminopyrimidine (2.0 g, 9.9 mmol: Bull. Chem. Soc. Jpn., 72, 2523 (1999)) dissolved in THF (25 ml) was added 1.56 M of n-butyl lithium (hexane solution, 7.0 ml, 10.9 mmol) under cooling with a dry ice-acetone bath. After stirring the mixture for 40 minutes, a solution of triisopropyl borate (3.5 ml, 0.15 ml) dissolved in THF (6 ml) was added to the reaction mixture. The temperature of the mixture was raised to room temperature, hydrochloric acid was added to the mixture, and then the solvent was removed. The residue was triturated by methanol-diethyl ether to give 2-dimethylamino-5-pyrimidinylboric acid hydrochloride (2.26 g).

reactant | 5-bromo-2-dimethylaminopyrimidine | 9.9 mmol, 2.0 g | BrC=1C=NC(=NC1)N(C)C | C6H8BrN3
reactant | n-butyl lithium | 10.9 mmol, 1.56 M, 7.0 ml | C(CCC)[Li]
reactant | triisopropyl borate | 3.5 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-dimethylamino-5-pyrimidinylboric acid hydrochloride | 2.26 g | Cl.CN(C1=NC=C(C=N1)OB(O)O)C | InChI=1S/C6H10BN3O3.ClH/c1-10(2)6-8-3-5(4-9-6)13-7(11)12;/h3-4,11-12H,1-2H3;1H
